### PR TITLE
Multiplication of real numbers

### PR DESCRIPTION
**Pull request by lowasser**
Work-in-progress, not ready for review, but at least putting this here to show how the parts fit together.

Will complete #1353 .

### CODE REVIEW

**Comment by lowasser** [comment]
(Has dependencies on #1336 and #1381 .)

**Comment by lowasser** [comment]
This PR now successfully defines the product of two reals and shows it is a real number.  It doesn't show any properties whatsoever of the product of two reals -- no ring laws, no nothing -- but each of those may well be its own lift.

This is the hard one.  Everything else should be comparatively easy.

There are a few drive-by changes I didn't end up needing thrown in, such as that the min in an opposite order is the max in the usual order and vice versa; I can pull those out into a separate thing or leave them in...

**Comment by lowasser** [comment]
Spent an hour thinking about how to prove the ring laws, and while I think all this work is correct and is going to show up in some form, I think the right way to prove all the ring laws and the like is to make rational intervals much more full featured, and show that they are...a semiring, actually, I think.  That will probably allow this to be simplified, but not by much.

**Comment by lowasser** [comment]
That's not a semiring, I lied.

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md [hunk 1]
```diff
@@ -223,3 +239,329 @@ abstract
...
+```agda
+abstract
+  bound-width-mul-interval-ℚ :
+    (a b c d : ℚ) →
+    (a≤b : leq-ℚ a b) (c≤d : leq-ℚ c d) →
+    max-ℚ (max-ℚ (a *ℚ c) (a *ℚ d)) (max-ℚ (b *ℚ c) (b *ℚ d)) -ℚ
+    min-ℚ (min-ℚ (a *ℚ c) (a *ℚ d)) (min-ℚ (b *ℚ c) (b *ℚ d))
+      ≤-ℚ
+    (b -ℚ a) *ℚ max-ℚ (rational-abs-ℚ c) (rational-abs-ℚ d) +ℚ
+    (d -ℚ c) *ℚ max-ℚ (rational-abs-ℚ a) (rational-abs-ℚ b)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]: Could you maybe add a brief sentence explaining this lemma so that the mathematical inequality can be typeset with LaTeX:

$$\max(a · c, a · d, b · c, b · d) - \min(a · c, a · d, b · c, b · d) ≤ (b - a) · \max(\left\lvert c\right\rvert , \left\lvert d\right\rvert ) + (d - c) · \max(\left\lvert a\right\rvert , \left\lvert b\right\rvert )$$

```tex
\max(a · c, a · d, b · c, b · d) - \min(a · c, a · d, b · c, b · d) ≤ (b - a) · \max(\left\lvert c\right\rvert , \left\lvert d\right\rvert ) + (d - c) · \max(\left\lvert a\right\rvert , \left\lvert b\right\rvert )
```

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md [hunk 2]
```diff
@@ -223,3 +239,329 @@ abstract
...
+  bound-width-mul-interval-ℚ a b c d a≤b c≤d =
+    let
+      ||_|| = rational-abs-ℚ
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]: Consider using either `║_║` or `│_│` for this operator. I think the latter is slightly more common in mathematical writing, but if you prefer the former I won't stop you. Either way, please make sure it is consistent with the LaTeX equation I suggested you add above.

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]: or
$$\max(a · c, a · d, b · c, b · d) - \min(a · c, a · d, b · c, b · d) ≤ (b - a) · \max(\left\lVert c\right\rVert , \left\lVert d\right\rVert ) + (d - c) · \max(\left\lVert a\right\rVert , \left\lVert b\right\rVert )$$
```tex
\max(a · c, a · d, b · c, b · d) - \min(a · c, a · d, b · c, b · d) ≤ (b - a) · \max(\left\lVert c\right\rVert , \left\lVert d\right\rVert ) + (d - c) · \max(\left\lVert a\right\rVert , \left\lVert b\right\rVert )
```
depending on your choice of notation

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md [hunk 3]
```diff
@@ -223,3 +239,329 @@ abstract
...
+              by
+                preserves-leq-left-mul-ℚ⁰⁺
+                  ( nonnegative-diff-leq-ℚ c d c≤d)
+                  ( || b ||)
+                  ( max-ℚ (|| a ||) (|| b ||))
+                  ( leq-right-max-ℚ _ _)
+              in-Poset ℚ-Poset
+            ≤ <b-a><max|c||d|> +ℚ <d-c><max|a||b|>
+              by is-inflationary-map-left-add-rational-ℚ⁰⁺ <b-a><max|c||d|>⁰⁺ _
+              in-Poset ℚ-Poset
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]:
```suggestion
        chain-of-inequalities
          || (b *ℚ c) -ℚ (b *ℚ d) ||
          ≤ (d -ℚ c) *ℚ || b ||
            by
              leq-eq-ℚ _ _
                ( ap ||_|| (inv (left-distributive-mul-diff-ℚ b c d)) ∙
                  rational-abs-mul-ℚ _ _ ∙
                  ap-mul-ℚ refl (rational-dist-leq-ℚ c≤d) ∙
                  commutative-mul-ℚ _ _)
            in-Poset ℚ-Poset
          ≤ <d-c><max|a||b|>
            by
              preserves-leq-left-mul-ℚ⁰⁺
                ( nonnegative-diff-leq-ℚ c d c≤d)
                ( || b ||)
                ( max-ℚ (|| a ||) (|| b ||))
                ( leq-right-max-ℚ _ _)
            in-Poset ℚ-Poset
          ≤ <b-a><max|c||d|> +ℚ <d-c><max|a||b|>
            by is-inflationary-map-left-add-rational-ℚ⁰⁺ <b-a><max|c||d|>⁰⁺ _
            in-Poset ℚ-Poset
```

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md [hunk 4]
```diff
@@ -223,3 +239,329 @@ abstract
...
+              by
+                preserves-leq-left-mul-ℚ⁰⁺
+                  ( nonnegative-diff-leq-ℚ a b a≤b)
+                  ( || c ||)
+                  ( max-ℚ (|| c ||) (|| d ||))
+                  ( leq-left-max-ℚ _ _)
+              in-Poset ℚ-Poset
+            ≤ <b-a><max|c||d|> +ℚ <d-c><max|a||b|>
+              by is-inflationary-map-right-add-rational-ℚ⁰⁺ <d-c><max|a||b|>⁰⁺ _
+              in-Poset ℚ-Poset
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]:
```suggestion
        chain-of-inequalities
          || (a *ℚ c) -ℚ (b *ℚ c) ||
          ≤ (b -ℚ a) *ℚ || c ||
            by
              leq-eq-ℚ _ _
                ( ap
                  ( rational-abs-ℚ)
                  ( inv (right-distributive-mul-diff-ℚ a b c)) ∙
                  rational-abs-mul-ℚ _ _ ∙
                  ap-mul-ℚ (rational-dist-leq-ℚ a≤b) refl)
            in-Poset ℚ-Poset
          ≤ (b -ℚ a) *ℚ max-ℚ (|| c ||) (|| d ||)
            by
              preserves-leq-left-mul-ℚ⁰⁺
                ( nonnegative-diff-leq-ℚ a b a≤b)
                ( || c ||)
                ( max-ℚ (|| c ||) (|| d ||))
                ( leq-left-max-ℚ _ _)
            in-Poset ℚ-Poset
          ≤ <b-a><max|c||d|> +ℚ <d-c><max|a||b|>
            by is-inflationary-map-right-add-rational-ℚ⁰⁺ <d-c><max|a||b|>⁰⁺ _
            in-Poset ℚ-Poset
```

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md [hunk 5]
```diff
@@ -223,3 +239,329 @@ abstract
...
+              by
+                preserves-leq-left-mul-ℚ⁰⁺
+                  ( nonnegative-diff-leq-ℚ a b a≤b)
+                  ( || d ||)
+                  ( max-ℚ (|| c ||) (|| d ||))
+                  ( leq-right-max-ℚ _ _)
+              in-Poset ℚ-Poset
+            ≤ <b-a><max|c||d|> +ℚ <d-c><max|a||b|>
+              by is-inflationary-map-right-add-rational-ℚ⁰⁺ <d-c><max|a||b|>⁰⁺ _
+              in-Poset ℚ-Poset
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]:
```suggestion
          || (a *ℚ d) -ℚ (b *ℚ d) ||
          ≤ (b -ℚ a) *ℚ || d ||
            by
              leq-eq-ℚ _ _
                ( ap
                  ( rational-abs-ℚ)
                  ( inv (right-distributive-mul-diff-ℚ a b d)) ∙
                  rational-abs-mul-ℚ _ _ ∙
                  ap-mul-ℚ (rational-dist-leq-ℚ a≤b) refl)
            in-Poset ℚ-Poset
          ≤ (b -ℚ a) *ℚ max-ℚ (|| c ||) (|| d ||)
            by
              preserves-leq-left-mul-ℚ⁰⁺
                ( nonnegative-diff-leq-ℚ a b a≤b)
                ( || d ||)
                ( max-ℚ (|| c ||) (|| d ||))
                ( leq-right-max-ℚ _ _)
            in-Poset ℚ-Poset
          ≤ <b-a><max|c||d|> +ℚ <d-c><max|a||b|>
            by is-inflationary-map-right-add-rational-ℚ⁰⁺ <d-c><max|a||b|>⁰⁺ _
            in-Poset ℚ-Poset
```

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md [hunk 6]
```diff
@@ -223,3 +239,329 @@ abstract
...
+                  ( max-ℚ (|| c ||) (|| d ||))
+                  ( leq-left-max-ℚ _ _)
+              in-Poset ℚ-Poset
+            ≤ <b-a><max|c||d|> +ℚ <d-c><max|a||b|>
+              by is-inflationary-map-right-add-rational-ℚ⁰⁺ <d-c><max|a||b|>⁰⁺ _
+              in-Poset ℚ-Poset
+      good-|ad-bd| : good (|| (a *ℚ d) -ℚ (b *ℚ d) ||)
+      good-|ad-bd| =
+        calculate-in-Poset ℚ-Poset
+        chain-of-inequalities
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]: This `chain-of-inequalities` reasoning syntax seems like a clear cut example where a syntax module á la #1332 is warranted. Would you be willing to add that as part of this PR and refactor your proofs to use the added syntax module? I think it is a good test case and it will reduce the verbosity of these lemmas.

If you are uncertain about how to write the requested syntax module let me know and I can write it for you.

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md [hunk 7]
```diff
@@ -223,3 +239,329 @@ abstract
...
+                    ( nonnegative-diff-leq-ℚ a b a≤b)
+                    ( || c ||)
+                    ( max-ℚ (|| c ||) (|| d ||))
+                    ( leq-left-max-ℚ _ _))
+                  ( preserves-leq-left-mul-ℚ⁰⁺
+                    ( nonnegative-diff-leq-ℚ c d c≤d)
+                    ( || a ||)
+                    ( max-ℚ (|| a ||) (|| b ||))
+                    ( leq-left-max-ℚ _ _))
+              in-Poset ℚ-Poset
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]:
```suggestion
        chain-of-inequalities
          || (a *ℚ d) -ℚ (b *ℚ c) ||
          ≤ || (a *ℚ d -ℚ a *ℚ c) +ℚ (a *ℚ c -ℚ b *ℚ c) ||
            by
              leq-eq-ℚ _ _
                ( ap rational-abs-ℚ
                  ( inv
                    ( simplifyExpression
                      ( group-add-ℚ)
                      ( gMul (gMul x (gInv y)) (gMul y (gInv z)))
                      ( a *ℚ d ∷ a *ℚ c ∷ b *ℚ c ∷ empty-tuple))))
            in-Poset ℚ-Poset
          ≤ || a *ℚ (d -ℚ c) +ℚ (a -ℚ b) *ℚ c ||
            by
              leq-eq-ℚ _ _
                ( ap rational-abs-ℚ
                  ( inv
                    ( ap-add-ℚ
                      ( left-distributive-mul-diff-ℚ a d c)
                      ( right-distributive-mul-diff-ℚ a b c))))
            in-Poset ℚ-Poset
          ≤ (|| a *ℚ (d -ℚ c) ||) +ℚ (|| ( a -ℚ b) *ℚ c ||)
            by triangle-inequality-abs-ℚ _ _
            in-Poset ℚ-Poset
          ≤ ((b -ℚ a) *ℚ || c ||) +ℚ ((d -ℚ c) *ℚ || a ||)
            by
              leq-eq-ℚ _ _
                ( ap-add-ℚ
                  ( rational-abs-mul-ℚ _ _ ∙
                    ap-mul-ℚ refl (rational-dist-leq-reversed-ℚ c≤d) ∙
                    commutative-mul-ℚ _ _)
                  ( rational-abs-mul-ℚ _ _ ∙
                    ap-mul-ℚ (rational-dist-leq-ℚ a≤b) refl) ∙
                  commutative-add-ℚ _ _)
            in-Poset ℚ-Poset
          ≤ <b-a><max|c||d|> +ℚ <d-c><max|a||b|>
            by
              preserves-leq-add-ℚ
                ( preserves-leq-left-mul-ℚ⁰⁺
                  ( nonnegative-diff-leq-ℚ a b a≤b)
                  ( || c ||)
                  ( max-ℚ (|| c ||) (|| d ||))
                  ( leq-left-max-ℚ _ _))
                ( preserves-leq-left-mul-ℚ⁰⁺
                  ( nonnegative-diff-leq-ℚ c d c≤d)
                  ( || a ||)
                  ( max-ℚ (|| a ||) (|| b ||))
                  ( leq-left-max-ℚ _ _))
            in-Poset ℚ-Poset
```

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md [hunk 8]
```diff
@@ -223,3 +239,329 @@ abstract
...
+                    ( nonnegative-diff-leq-ℚ a b a≤b)
+                    ( || d ||)
+                    ( max-ℚ (|| c ||) (|| d ||))
+                    ( leq-right-max-ℚ _ _))
+                  ( preserves-leq-left-mul-ℚ⁰⁺
+                    ( nonnegative-diff-leq-ℚ c d c≤d)
+                    ( || a ||)
+                    ( max-ℚ (|| a ||) (|| b ||))
+                    ( leq-left-max-ℚ _ _))
+              in-Poset ℚ-Poset
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]:
```suggestion
        chain-of-inequalities
          || (a *ℚ c) -ℚ (b *ℚ d) ||
          ≤ || (a *ℚ c -ℚ a *ℚ d) +ℚ (a *ℚ d -ℚ b *ℚ d) ||
            by
              leq-eq-ℚ _ _
                ( ap rational-abs-ℚ
                  ( inv
                    ( simplifyExpression
                      ( group-add-ℚ)
                      ( gMul (gMul x (gInv y)) (gMul y (gInv z)))
                      ( a *ℚ c ∷ a *ℚ d ∷ b *ℚ d ∷ empty-tuple))))
            in-Poset ℚ-Poset
          ≤ || a *ℚ (c -ℚ d) +ℚ (a -ℚ b) *ℚ d ||
            by
              leq-eq-ℚ _ _
                ( ap rational-abs-ℚ
                  ( inv
                    ( ap-add-ℚ
                      ( left-distributive-mul-diff-ℚ a c d)
                      ( right-distributive-mul-diff-ℚ a b d))))
            in-Poset ℚ-Poset
          ≤ (|| a *ℚ (c -ℚ d) ||) +ℚ (|| ( a -ℚ b) *ℚ d ||)
            by triangle-inequality-abs-ℚ _ _
            in-Poset ℚ-Poset
          ≤ ((b -ℚ a) *ℚ || d ||) +ℚ ((d -ℚ c) *ℚ || a ||)
            by
              leq-eq-ℚ _ _
                ( ap-add-ℚ
                  ( rational-abs-mul-ℚ _ _ ∙
                    ap-mul-ℚ refl (rational-dist-leq-ℚ c≤d) ∙
                    commutative-mul-ℚ _ _)
                  ( rational-abs-mul-ℚ _ _ ∙
                    ap-mul-ℚ (rational-dist-leq-ℚ a≤b) refl) ∙
                  commutative-add-ℚ _ _)
            in-Poset ℚ-Poset
          ≤ <b-a><max|c||d|> +ℚ <d-c><max|a||b|>
            by
              preserves-leq-add-ℚ
                ( preserves-leq-left-mul-ℚ⁰⁺
                  ( nonnegative-diff-leq-ℚ a b a≤b)
                  ( || d ||)
                  ( max-ℚ (|| c ||) (|| d ||))
                  ( leq-right-max-ℚ _ _))
                ( preserves-leq-left-mul-ℚ⁰⁺
                  ( nonnegative-diff-leq-ℚ c d c≤d)
                  ( || a ||)
                  ( max-ℚ (|| a ||) (|| b ||))
                  ( leq-left-max-ℚ _ _))
            in-Poset ℚ-Poset
```

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md [hunk 9]
```diff
@@ -223,3 +239,329 @@ abstract
...
+        (inr (inl max=bc)) (inr (inr min=bd)) →
+          case-1 max=bc min=bd good-|bc-bd|
+        (inr (inr max=bd)) (inl (inl min=ac)) →
+          case-2 max=bd min=ac good-|ac-bd|
+        (inr (inr max=bd)) (inl (inr min=ad)) →
+          case-2 max=bd min=ad good-|ad-bd|
+        (inr (inr max=bd)) (inr (inl min=bc)) →
+          case-2 max=bd min=bc good-|bc-bd|
+        (inr (inr max=bd)) (inr (inr min=bd)) →
+          case-1 max=bd min=bd (good-x-x (b *ℚ d))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]: 0.o

Comment (fredrik-bakke) [reply src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]: I just saw this `case-bash!` instance search tactic contributed by Reed to 1lab: `https://github.com/the1lab/1lab/pull/551`. Is this something that could possibly be used to automate this proof?

There's also the `wlog` helper function that @VojtechStep mentioned some time recently.

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md (hunk 6 above)
Comment (fredrik-bakke) [reply src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]: Here's what I have in mind, in `order-theory.posets`, replace the relevant section with:

````md
## Reasoning with inequalities in posets

```text
  open module inequality-reasoning-Poset ℚ-Poset where
  chain-of-inequalities-Poset
  x
  ≤ y
    by ineq-1
  ≤ z
    by ineq-2
  ≤ v
    by ineq-3
```

Note, however, that in our setup of equational reasoning with inequalities it is
not possible to mix inequalities with equalities or strict inequalities.

```agda
module
  inequality-reasoning-Poset
  {l1 l2 : Level} (X : Poset l1 l2)
  where

  infixl 1 chain-of-inequalities-Poset_
  infixl 0 step-chain-of-inequalities-Poset

  chain-of-inequalities-Poset_ :
    (x : type-Poset X) → leq-Poset X x x
  chain-of-inequalities-Poset_ = refl-leq-Poset X

  step-chain-of-inequalities-Poset :
    {x y : type-Poset X} → leq-Poset X x y →
    (z : type-Poset X) → leq-Poset X y z → leq-Poset X x z
  step-chain-of-inequalities-Poset {x} {y} u z v =
    transitive-leq-Poset X x y z v u

  syntax step-chain-of-inequalities-Poset u z v = u ≤ z by v
```
````

I haven't tested the syntax, so I may be writing the example application wrong. If so, please update it with a correct application of the syntax.

Comment (fredrik-bakke) [reply src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]: also feel free to take some artistic liberty if you think the syntax can be simplified further somehow

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 10]
```diff
@@ -215,20 +215,35 @@ reflects-leq-right-add-ℤ z x y =
...
+
+  reflects-leq-int-ℕ : (x y : ℕ) → leq-ℤ (int-ℕ x) (int-ℕ y) → leq-ℕ x y
+  reflects-leq-int-ℕ zero-ℕ y x≤y = star
+  reflects-leq-int-ℕ (succ-ℕ x) (succ-ℕ y) x≤y =
+    reflects-leq-int-ℕ x y
+      ( tr
+          ( is-nonnegative-ℤ)
+          ( ap-diff-ℤ (inv (succ-int-ℕ y)) (inv (succ-int-ℕ x)) ∙
+            diff-succ-ℤ (int-ℕ y) (int-ℕ x))
+          ( x≤y))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integers.lagda.md]:
```suggestion
      ( tr
        ( is-nonnegative-ℤ)
        ( ap-diff-ℤ (inv (succ-int-ℕ y)) (inv (succ-int-ℕ x)) ∙
          diff-succ-ℤ (int-ℕ y) (int-ℕ x))
        ( x≤y))
```

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 11]
```diff
@@ -215,20 +215,35 @@ reflects-leq-right-add-ℤ z x y =
...
+  leq-int-ℕ zero-ℕ y H =
+    tr
+      ( is-nonnegative-ℤ)
+      ( inv (right-unit-law-add-ℤ (int-ℕ y)))
+      ( is-nonnegative-int-ℕ y)
+  leq-int-ℕ (succ-ℕ x) (succ-ℕ y) H = tr (is-nonnegative-ℤ)
+    ( inv (diff-succ-ℤ (int-ℕ y) (int-ℕ x)) ∙
+      ( ap (_-ℤ (succ-ℤ (int-ℕ x))) (succ-int-ℕ y) ∙
+        ap ((int-ℕ (succ-ℕ y)) -ℤ_) (succ-int-ℕ x)))
+    ( leq-int-ℕ x y H)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integers.lagda.md]:
```suggestion
  leq-int-ℕ (succ-ℕ x) (succ-ℕ y) H =
    tr
      ( is-nonnegative-ℤ)
      ( ( inv (diff-succ-ℤ (int-ℕ y) (int-ℕ x))) ∙
        ( ap (_-ℤ (succ-ℤ (int-ℕ x))) (succ-int-ℕ y)) ∙
        ( ap ((int-ℕ (succ-ℕ y)) -ℤ_) (succ-int-ℕ x)))
      ( leq-int-ℕ x y H)
```

File: src/elementary-number-theory/multiplicative-group-of-positive-rational-numbers.lagda.md [hunk 12]
```diff
@@ -181,3 +181,11 @@ module _
     eq-denominator-inv-numerator-ℚ⁺ =
       ind-Σ eq-denominator-inv-numerator-is-positive-ℚ x
 ```
+
+### Group laws on the positive rational numbers
+
+```agda
+abstract
+  is-section-mul-ℚ⁺ : (p q : ℚ⁺) → (q *ℚ⁺ inv-ℚ⁺ p) *ℚ⁺ p ＝ q
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/multiplicative-group-of-positive-rational-numbers.lagda.md]: `is-section-right-mul-ℚ⁺`

File: src/order-theory/posets.lagda.md [hunk 13]
```diff
@@ -201,3 +201,17 @@ module _
 ```
 
 It remains to show that these constructions form inverses to each other.
+
+### 3-cycles in poset inequalities
+
+```agda
+abstract
+  3-cycle-leq-Poset :
```
Comment (fredrik-bakke) [inline src/order-theory/posets.lagda.md]: `three-cycle-leq-Poset`

File: src/order-theory/decidable-total-orders.lagda.md [hunk 14]
```diff
@@ -509,6 +510,67 @@ module _
       ( order-theoretic-join-semilattice-Decidable-Total-Order)
 ```
 
+### `max a b` is equal to `a` or `b`
```
Comment (fredrik-bakke) [inline src/order-theory/decidable-total-orders.lagda.md]: FYI this should be true in any poset

Comment (fredrik-bakke) [reply src/order-theory/decidable-total-orders.lagda.md]: Sorry, I mean every total order*

File: src/order-theory/opposite-total-orders.lagda.md [hunk 15]
```diff
@@ -0,0 +1,58 @@
...
+
+  abstract
+    is-total-poset-opposite-Total-Order :
+      is-total-Poset poset-opposite-Total-Order
+    is-total-poset-opposite-Total-Order x y =
+      elim-disjunction
+        ( incident-Poset-Prop poset-opposite-Total-Order x y)
+        ( inr-disjunction)
+        ( inl-disjunction)
+        (is-total-Total-Order X x y)
```
Comment (fredrik-bakke) [inline src/order-theory/opposite-total-orders.lagda.md]:
```suggestion
        ( is-total-Total-Order X x y)
```

File: src/order-theory/opposite-decidable-total-orders.lagda.md [hunk 16]
```diff
@@ -0,0 +1,108 @@
...
+
+  opposite-Decidable-Total-Order : Decidable-Total-Order l1 l2
+  opposite-Decidable-Total-Order =
+    ( poset-opposite-Decidable-Total-Order ,
+      is-decidable-total-poset-opposite-Decidable-Total-Order)
+```
+
+## Properties
+
+### The maximum of two elements in a decidable total order is their minimum in the opposite decidable total order
```
Comment (fredrik-bakke) [inline src/order-theory/opposite-decidable-total-orders.lagda.md]: Could you factor this to `opposite-posets`, and then just instantiate the result here?

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md [hunk 17]
```diff
@@ -223,3 +239,329 @@ abstract
...
+          ( nonnegative-diff-leq-ℚ a b a≤b)
+          ( max-ℚ⁰⁺ (abs-ℚ c) (abs-ℚ d))
+      <b-a><max|c||d|> = rational-ℚ⁰⁺ <b-a><max|c||d|>⁰⁺
+      <d-c><max|a||b|>⁰⁺ =
+        mul-ℚ⁰⁺
+          ( nonnegative-diff-leq-ℚ c d c≤d)
+          ( max-ℚ⁰⁺ (abs-ℚ a) (abs-ℚ b))
+      <d-c><max|a||b|> = rational-ℚ⁰⁺ <d-c><max|a||b|>⁰⁺
+      good : ℚ → UU lzero
+      good q = q ≤-ℚ ( <b-a><max|c||d|> +ℚ <d-c><max|a||b|>)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]: I think also an informal explanation of proof strategy is in order. For instance, could you explain informally how you use this "good" predicate in your construction?

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md [hunk 18]
```diff
@@ -223,3 +239,329 @@ abstract
...
+          || (a *ℚ d) -ℚ (b *ℚ c) ||
+            ≤ || (a *ℚ d -ℚ a *ℚ c) +ℚ (a *ℚ c -ℚ b *ℚ c) ||
+              by
+                leq-eq-ℚ _ _
+                  ( ap rational-abs-ℚ
+                    ( inv
+                      ( simplifyExpression
+                        ( group-add-ℚ)
+                        ( gMul (gMul x (gInv y)) (gMul y (gInv z)))
+                        ( a *ℚ d ∷ a *ℚ c ∷ b *ℚ c ∷ empty-tuple))))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]: While I'm not entirely against using a group solver in principle, I don't think you should use it here. It clearly complicates your proof in multiple regards:
1. It adds dependence on multiple concepts that are otherwise irrelevant, such as abstract representations of group syntax, generic group variables, tuples.
2. It is hard to read since the generic variables are introduced in a different part of your code as compared to where you use them, and the naming in the group solver does not comply with library conventions.
3. It is much more verbose than writing out the proof directly. In fact, since you use the equality `(x + (-y)) + (y + z) = x + z` twice in this proof alone, I suggest you factor it out as a general lemma about groups.

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md [hunk 19]
```diff
@@ -223,3 +239,329 @@ abstract
...
+          || (a *ℚ c) -ℚ (b *ℚ d) ||
+            ≤ || (a *ℚ c -ℚ a *ℚ d) +ℚ (a *ℚ d -ℚ b *ℚ d) ||
+              by
+                leq-eq-ℚ _ _
+                  ( ap rational-abs-ℚ
+                    ( inv
+                      ( simplifyExpression
+                        ( group-add-ℚ)
+                        ( gMul (gMul x (gInv y)) (gMul y (gInv z)))
+                        ( a *ℚ c ∷ a *ℚ d ∷ b *ℚ d ∷ empty-tuple))))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]: See my other comment about using the group solver here.

File: src/order-theory/decidable-total-orders.lagda.md (hunk 14 above)
Comment (fredrik-bakke) [reply src/order-theory/decidable-total-orders.lagda.md]: Oh, I see you already added this with #1490

File: src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md (hunk 9 above)
Comment (lowasser) [reply src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]: Maybe?  I'm not sure I really get how case-bash works; I believe it could plausibly help?

I have spent a fair amount of time thinking about whether there are any places in this proof one might say, "Without loss of generality..." even in English.  I don't have anything; I don't have any ideas.  I've spent months trying to find a better way to do it than this, unfortunately.

Comment (fredrik-bakke) [reply src/elementary-number-theory/closed-intervals-rational-numbers.lagda.md]: Oops, I managed to post a malformed link, I fixed it now. Did you still manage to find what I referenced? Regardless, you can leave any experimentation of proof improvements for a further PR. I just wanted to point out the suggestion. It looks to me like `case-bash!` might do the trick for you.

**Comment by lowasser** [comment]
Remarking as a draft; I want to submit #1497 first.

**Comment by lowasser** [comment]
I think this version qualifies as finally having proved all the basic properties of multiplication of real numbers, but it will obviously need breaking up -- possibly even further than the other active PRs (#1561, #1562, #1563).

**Comment by lowasser** [comment]
(Specifically, we have the ring laws, and we have that the standard embedding of rationals preserves multiplication.)

File: src/elementary-number-theory/multiplication-closed-intervals-rational-numbers.lagda.md [hunk 20]
```diff
@@ -864,3 +875,374 @@ abstract
...
+        ( λ min=bd →
+          case-max
+            ( case-2 min=bd under-bound-|ac-bd|)
+            ( case-2 min=bd under-bound-|ad-bd|)
+            ( case-2 min=bd under-bound-|bc-bd|)
+            ( case-eq min=bd))
+```
+
+### Multiplication of closed intervals is subdistributive
+
```
Comment (lowasser) [inline src/elementary-number-theory/multiplication-closed-intervals-rational-numbers.lagda.md:1117]: This part seems to have accidentally gotten deleted in the last PR?

File: src/elementary-number-theory/archimedean-property-positive-rational-numbers.lagda.md [hunk 21]
```diff
@@ -36,9 +36,9 @@ open import foundation.transport-along-identifications
 
 The
 {{#concept "Archimedean property" Disambiguation="positive rational numbers" Agda=archimedean-property-ℚ⁺}}
-of the
+of `ℚ⁺` is that for any two
 [positive rational numbers](elementary-number-theory.positive-rational-numbers.md)
-is that for any `x y : ℚ⁺`, there is a
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/archimedean-property-positive-rational-numbers.lagda.md:41]: this is a revert of a change you made in another PR I believe

File: src/elementary-number-theory/multiplication-closed-intervals-rational-numbers.lagda.md (hunk 20 above)
Comment (fredrik-bakke) [reply src/elementary-number-theory/multiplication-closed-intervals-rational-numbers.lagda.md:1117]: Apologies if this is my doing! It's fine by me to merge it again as part of this PR

File: src/elementary-number-theory/absolute-value-closed-intervals-rational-numbers.lagda.md [hunk 22]
```diff
@@ -0,0 +1,88 @@
...
+
+</details>
+
+## Idea
+
+The
+[absolute value](elementary-number-theory.absolute-value-rational-numbers.md) of
+an element of a
+[closed interval](elementary-number-theory.closed-intervals-rational-numbers.md)
+[a, b] of [rational numbers](elementary-number-theory.rational-numbers.md) is
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/absolute-value-closed-intervals-rational-numbers.lagda.md]: I rediscovered recently that our website renderer dislikes `[a, b]` because it resembles a link. If you would add
```md
[a, b]: https://unimath.github.io/agda-unimath/
```
then this interval would be treated as a link. So it is probably best to put them in code guards 
```suggestion
`[a, b]` of [rational numbers](elementary-number-theory.rational-numbers.md) is
```

File: src/elementary-number-theory/maximum-nonnegative-rational-numbers.lagda.md [hunk 23]
```diff
@@ -0,0 +1,85 @@
...
+
+</details>
+
+## Idea
+
+The maximum of two
+[positive rational numbers](elementary-number-theory.positive-rational-numbers.md)
+is the
+[greatest](elementary-number-theory.inequality-positive-rational-numbers.md)
+rational number of the two.
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/maximum-nonnegative-rational-numbers.lagda.md]:
```suggestion
The {{#concept "maximum" Disambiguation="of two nonnegative rational numbers" Agda=max-ℚ⁰⁺}} of two
[nonnegative rational numbers](elementary-number-theory.nonnegative-rational-numbers.md)
is the
[greatest](elementary-number-theory.inequality-nonnegative-rational-numbers.md)
rational number of the two.
```

File: src/real-numbers/multiplication-real-numbers.lagda.md [hunk 24]
```diff
@@ -0,0 +1,1133 @@
...
+              ( ℚ × ℚ)
+              ( close-bounds-lower-upper-ℝ lower-real-mul-ℝ upper-real-mul-ℝ ε))
+      in do
+        (Nx , bound-Nx) ← natural-bound-location-ℝ x one-ℚ⁺
+        (Ny , bound-Ny) ← natural-bound-location-ℝ y one-ℚ⁺
+        let
+          N = max-ℕ Nx Ny
+          -- To make sure we have values strictly < and > the min and max
+          -- whose difference is strictly less than ε, we need to split
+          -- out the epsilons a bunch to give ourselves wiggle room.
```
Comment (fredrik-bakke) [inline src/real-numbers/multiplication-real-numbers.lagda.md]: Since we use a literate file format, we have better tools available than code comments. The simplest solution would be to close the agda environment, write your thoughts, and then open it again, e.g.,

````suggestion
```

To make sure we have values strictly less than the min and strictly greater than the max whose difference is strictly less than ε, we need to split out the epsilons a bunch to give ourselves some wiggle room.

```agda
````

Although I wouldn't directly recommend this approach. Instead, it is more helpful if you explain the strategy informally together with the context. Think:
"In order to show that multiplication is arithmetically located, we need to do such and such with such and such, and in order to make sure we have values strictly less and greater than..." as part of a construction sketch before the construction starts, meaning above 
```agda
  abstract
    is-arithmetically-located-mul-ℝ :
```

File: src/real-numbers/multiplication-real-numbers.lagda.md [hunk 25]
```diff
@@ -0,0 +1,1133 @@
...
+      in
+        antisymmetric-leq-ℝ _ _
+          ( leq-associative-mul-ℝ x y z)
+          ( binary-tr
+            ( leq-ℝ)
+            ( ( commutative-mul-ℝ (z *ℝ y) x) ∙
+              ( ap-mul-ℝ refl (commutative-mul-ℝ z y)))
+            ( ( commutative-mul-ℝ z (y *ℝ x)) ∙
+              ( ap-mul-ℝ (commutative-mul-ℝ y x) refl))
+            ( leq-associative-mul-ℝ z y x))
```
Comment (fredrik-bakke) [inline src/real-numbers/multiplication-real-numbers.lagda.md]: You're not using inequality reasoning here at all
```suggestion
      antisymmetric-leq-ℝ _ _
        ( leq-associative-mul-ℝ x y z)
        ( binary-tr
          ( leq-ℝ)
          ( ( commutative-mul-ℝ (z *ℝ y) x) ∙
            ( ap-mul-ℝ refl (commutative-mul-ℝ z y)))
          ( ( commutative-mul-ℝ z (y *ℝ x)) ∙
            ( ap-mul-ℝ (commutative-mul-ℝ y x) refl))
          ( leq-associative-mul-ℝ z y x))
```

**Review by fredrik-bakke — APPROVED** [review]
Amazing work 🤩

File: src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md [hunk 26]
```diff
@@ -82,21 +86,73 @@ module _
...
+    Π-Prop ℚ⁺ (λ ε⁺ → ∃ (ℚ × ℚ) (weak-close-bounds-lower-upper-ℝ ε⁺))
+
   is-arithmetically-located-lower-upper-ℝ : UU (l1 ⊔ l2)
   is-arithmetically-located-lower-upper-ℝ =
     type-Prop is-arithmetically-located-prop-lower-upper-ℝ
 
+  is-weakly-arithmetically-located-lower-upper-ℝ : UU (l1 ⊔ l2)
+  is-weakly-arithmetically-located-lower-upper-ℝ =
+    type-Prop is-weakly-arithmetically-located-prop-lower-upper-ℝ
+
```
Comment (fredrik-bakke) [inline src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md]: The weak condition should go in a separate section.
